US06353006B1
To a solution of methylamine in methanol (2.0M, 5 mL) was added 2-(2-methyl-4-nitrophenylimino)-4-(chloromethyl)-1,3-thiazolidine (prepared in a manner analogous to that described in Method C2a; 0.040 g, 0.140 mmol) and the resulting mixture was stirred at room temp for 72 h. The mixture was concentrated under reduced pressure and the resulting residue was purified by flash chromatography (5% MeOH/CH2Cl2) to give 2-(2-methyl-4-nitrophenylimino)-4-(N-methylaminomethyl)-1,3-thiazolidine as a solid (0.014 g, 35%).

reactant | methylamine | CN | CH5N
reactant | 2-(2-methyl-4-nitrophenylimino)-4-(chloromethyl)-1,3-thiazolidine | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SCC(N1)CCl | C11H12ClN3O2S
solvent | methanol | 2.0M, 5 mL | CO | CH4O
product | 2-(2-methyl-4-nitrophenylimino)-4-(N-methylaminomethyl)-1,3-thiazolidine | 0.014 g, 35% | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SCC(N1)CNC | C12H16N4O2S
